US07223788B2
6-Chloro-N-[4-(3-dimethylaminopyrrolidin-1-yl)phenyl]nicotinamide
6-Chloronicotinic acid was reacted with [1-(4-amino-phenyl)pyrrolidin-3-yl]dimethylamine by method E-b. This resulted in the product with the molecular weight of 344.14 (C18H21ClN4O); MS (ESI): 345 (M+H+) as hydrotrifluoroacetate.

reactant | 6-Chloronicotinic acid | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | [1-(4-amino-phenyl)pyrrolidin-3-yl]dimethylamine | NC1=CC=C(C=C1)N1CC(CC1)N(C)C | C12H19N3
product | 6-Chloro-N-[4-(3-dimethylaminopyrrolidin-1-yl)phenyl]nicotinamide | ClC1=NC=C(C(=O)NC2=CC=C(C=C2)N2CC(CC2)N(C)C)C=C1 | C18H21ClN4O
